US09227918B2
To 5.12 g (28.6 mmol) of methyl 3-(2-aminoethyl)benzoate in 71 mL tetrahydrofuran (THF) was added 7.48 g (34.3 mmol) of BOC2O. The mixture was stirred for about 16 h at 22° C. and 100 mL of water was added. The mixture was extracted with ethyl acetate (2×100 mL) and the organic phase was washed with brine, dried (Na2SO4) and evaporated. The residue was purified by flash chromatography on silica gel, eluting first with hexane and then gradually increasing to 20% ethyl acetate/hexane to give methyl 3-(2-(tert-butoxycarbonylamino)ethyl)benzoate which was further converted to 2d in a manner analogous to Method B.

reactant | methyl 3-(2-aminoethyl)benzoate | 28.6 mmol, 5.12 g | NCCC=1C=C(C(=O)OC)C=CC1 | C10H13NO2
reactant | BOC2O | 34.3 mmol, 7.48 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 71 mL | O1CCCC1 | C4H8O
product | methyl 3-(2-(tert-butoxycarbonylamino)ethyl)benzoate | C(C)(C)(C)OC(=O)NCCC=1C=C(C(=O)OC)C=CC1 | C15H21NO4
